** sch_path: /home/jam/Desktop/Project/cmosInverter/inverter.sch
**.subckt inverter
XM1 Vout Vin GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 Vout Vin Vdd Vdd sky130_fd_pr__pfet_01v8 L=0.15 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vdd Vdd GND 1.8
Vin Vin GND pulse(0 1.8 0 1ns 1ns 4ns 10ns)
C1 Vout GND 1p m=1
**** begin user architecture code


.lib /usr/local/share/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt




.tran 100ps 20ns
.save all
.end


**** end user architecture code
**.ends
.GLOBAL GND
.end
